US07531532B2
Benzyl {4-[2-(3,3-dimethylureido)pyridin-4-yloxy]-2-fluorophenyl}carbamate
To a solution of benzyl [4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]carbamate (163 mg, 0.461 mmol) in tetrahydrofuran (4.50 ml) was added triethylamine (0.128 ml, 0.918 mmol), and then phenyl chloroformate (0.0872 ml, 0.695 mmol) was added dropwise thereto, followed by stirring at room temperature for 10 min. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (2.0 ml), dimethylamine hydrochloride (188 mg, 2.31 mmol) and triethylamine (0.386 ml) were then added, followed by stirring at room temperature for 8 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and water (30 ml). The organic layer was washed with brine (30 ml×3), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate, then ethyl acetate:methanol=20:1) to provide the titled compound (165 mg, 47.5%) as pale yellow powder.

reactant | benzyl [4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]carbamate | 0.461 mmol, 163 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F | C19H16FN3O3
reactant | phenyl chloroformate | 0.695 mmol, 0.0872 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | dimethylamine hydrochloride | 2.31 mmol, 188 mg | Cl.CNC
solvent | tetrahydrofuran | 4.50 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.386 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.918 mmol, 0.128 ml | C(C)N(CC)CC | C6H15N
product | Benzyl {4-[2-(3,3-dimethylureido)pyridin-4-yloxy]-2-fluorophenyl}carbamate | 165 mg, 47.5% | CN(C(NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F)=O)C | C22H21FN4O4
